US09382188B2
step 1) ((2-(tert-butoxy)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-yl)oxy)triisopropylsilane
Under a nitrogen atmosphere, to a solution of 2′-fluoro-5′-methoxy-4-((triisopropylsilyl)oxy)-[1,1′-biphenyl]-2-ol (207 mg) in toluene (3.55 mL) was added N,N-dimethylformamidide-tert-butylacetal (636 μL) at room temperature, and the mixture was stirred at 80° C. for 3 hr. The reaction mixture was cooled, poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (96 mg) as a colorless oil.

reactant | 2′-fluoro-5′-methoxy-4-((triisopropylsilyl)oxy)-[1,1′-biphenyl]-2-ol | 207 mg | FC1=C(C=C(C=C1)OC)C=1C(=CC(=CC1)O[Si](C(C)C)(C(C)C)C(C)C)O | C22H31FO3Si
reactant | water | O | H2O
solvent | toluene | 3.55 mL | C1(=CC=CC=C1)C | C7H8
product | ((2-(tert-butoxy)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-yl)oxy)triisopropylsilane | 96 mg | C(C)(C)(C)OC1=C(C=CC(=C1)O[Si](C(C)C)(C(C)C)C(C)C)C1=C(C=CC(=C1)OC)F | C26H39FO3Si
